US07709471B2
Methyl4-amino-3-propan-2-yloxy-benzoate
Methyl3-hydroxy-4-aminobenzoate (ABCR: 100 mg, 0.60 mmol) & caesium carbonate (396 mg, 1.22 mmol) were taken up in acetone (4 mL) and 2-iodopropane (90 μl, 0.90 mmol) added and reaction heated in microwave (CEM discover; 150 W) to 120° C. and held for 30 mins A further aliquot of 2-iodopropane (90 μl, 0.90 mmol) was added and reaction heated again to 120° C. in microwave, holding for a further 30 mins

reactant | Methyl3-hydroxy-4-aminobenzoate | 0.60 mmol, 100 mg | COC(C1=CC(=C(C=C1)N)O)=O | C8H9NO3
reactant | caesium carbonate | 1.22 mmol, 396 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-iodopropane | 0.90 mmol, 90 μl | IC(C)C | C3H7I
reactant | 2-iodopropane | 0.90 mmol, 90 μl | IC(C)C | C3H7I
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | Methyl4-amino-3-propan-2-yloxy-benzoate | COC(C1=CC(=C(C=C1)N)OC(C)C)=O | C11H15NO3
